US07351857B2
To a solution of 5-methoxyindan-1-one (75.8 g; 0.467 mol) in MeOH (1.4 L) at 45° C. is added butyl nitrite (81 mL; 0.693 mol) dropwise over 45 min. Concentrated HCl (45 mL) is then added to the hot solution over 20 min and the reaction was allowed to stir at 45° C. for an additional 1.5-2 h. The reaction suspension is cooled, the precipitate filtered, washed several times with cold MeOH, and dried under vacuo to afford 55.8 g (62%) of 5-methoxyindan-1,2-dione-2-oxime as a beige solid.

reactant | 5-methoxyindan-1-one | 0.467 mol, 75.8 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | butyl nitrite | 0.693 mol, 81 mL | N(=O)OCCCC | C4H9NO2
reactant | HCl | 45 mL | Cl | ClH
solvent | MeOH | 1.4 L | CO | CH4O
product | 5-methoxyindan-1,2-dione-2-oxime | 55.8 g, 62% | COC=1C=C2CC(C(C2=CC1)=O)=NO | C10H9NO3
